US05707985
3-(4-Methoxy-1-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane
The title compound was prepared by reacting 4-methoxy-1-naphthalenesulfonyl chloride (0.25 g) with 3-azabicyclo[3.2.2]nonane (0.12 g) in the presence of DIEA (0.16 g) using a procedure similar to that used in Example 5. Yield: 0.24 g, mp 167.7°-169.5° C. (soften 166.1° C.).

reactant | 4-methoxy-1-naphthalenesulfonyl chloride | 0.25 g | COC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C11H9ClO3S
reactant | 3-azabicyclo[3.2.2]nonane | 0.12 g | C12CNCC(CC1)CC2 | C8H15N
reactant | DIEA | 0.16 g | CCN(C(C)C)C(C)C | C8H19N
product | 3-(4-Methoxy-1-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane | COC1=CC=C(C2=CC=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C19H23NO3S
